US08536176B2
(2) tert-Butyl 4-[2-(4-methanesulfonylbenzoylamino)-pyridin-5-yl]-3,6-dihydro-2H-pyridine-1-carboxylate
To a solution of N-(5-bromopyridin-2-yl)-4-methanesulfonylbenzamide (287 mg, 0.81 mmol) and tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylate (305 mg, 0.97 mmol) in dry N,N-dimethylformamide (10 mL) was added [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (complex with dichloromethane) (33 mg, 0.040 mmol) and cesium carbonate (527 mg, 1.6 mmol). The mixture was stirred at 90° C. overnight under N2, allowed to cool to room temperature, diluted with water (10 mL) and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/2) to give the title compound as a white crystal (83 mg, yield 22%).

reactant | N-(5-bromopyridin-2-yl)-4-methanesulfonylbenzamide | 0.81 mmol, 287 mg | BrC=1C=CC(=NC1)NC(C1=CC=C(C=C1)S(=O)(=O)C)=O | C13H11BrN2O3S
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylate | 0.97 mmol, 305 mg | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | cesium carbonate | 1.6 mmol, 527 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
catalyst | [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.040 mmol, 33 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | tert-Butyl 4-[2-(4-methanesulfonylbenzoylamino)-pyridin-5-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | 83 mg, yield 22% | CS(=O)(=O)C1=CC=C(C(=O)NC2=NC=C(C=C2)C=2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C23H27N3O5S
